US04234744
12.78 grams of 2-bromo-6-chlorohexanoic acid methyl ester, 6.08 grams of potassium cyanate, 3.50 grams of methanol and 0.25 gram of hexamethyl guanidinium cyanate were heated in 70 ml of acetonitrile for 25 hours at 80° C. under strong stirring. The reaction mixture was worked up as described in Example 1. There were obtained 7.59 grams (60.7%) of 6-chloro-2-methoxy-carbonylaminohexanoic acid methyl ester which was saponified as in Example 14 to 2-amino-6-chlorohexanoic acid hydrochloride.

reactant | 2-bromo-6-chlorohexanoic acid methyl ester | 12.78 grams | COC(C(CCCCCl)Br)=O | C7H12BrClO2
reactant | potassium cyanate | 6.08 grams | [O-]C#N.[K+]
reactant | methanol | 3.50 grams | CO | CH4O
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
catalyst | hexamethyl guanidinium cyanate | 0.25 gram | [O-]C#N.CN(C(N(C)C)=[N+](C)C)C
product | 6-chloro-2-methoxy-carbonylaminohexanoic acid methyl ester | 7.59 grams, 60.7% | COC(C(CCCCCl)(OC)N=C=O)=O | C9H14ClNO4
